US06350735B1
(2R,3R,4R,5R)-4-(Acetyloxy)-2-[(acetyloxy)methyl]-5-(6-[(2,2-diphenylethyl)amino]-2-{[(isobutylsulfonyl)amino]methyl}-9H-purin-9-yl)tetrahydro-3-furanyl acetate
A suspension of N-({6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}methyl)-2-methyl-1-propanesulfonamide hydrochloride (Preparation 8) (0.21 g, 0.42 mmol) in 1,1,1-trichloroethane (10 ml) was treated with N,O-bis(trimethylacetamide) (0.6 ml, 2.45 mmol) and the mixture was heated under reflux for 2 hours. The solvent was removed under reduced pressure and the residue was azeotroped with toluene (×2). The residue was dissolved in toluene (10 ml) and treated with the β-D-ribofuranose-1,2,3,5-tetraacetate (0.16 g, 0.50 mmol) and trimethylsilyltriflate (0.1 ml, 0.5 mmol). The mixture was then heated at reflux for 4 hours. The mixture was diluted with ethyl acetate, washed sequentially with saturated aqueous sodium hydrogen carbonate solution and brine and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel eluting with a gradient system of dichloromethane:methanol (98:2 by volume) gradually changing to dichloromethane:methanol (95:5 by volume) to afford the title compound as a 1:3 mixture of α-and β-anomers (188 mg).

reactant | N-({6-[(2,2-diphenylethyl)amino]-9H-purin-2-yl}methyl)-2-methyl-1-propanesulfonamide hydrochloride | 0.42 mmol, 0.21 g | Cl.C1(=CC=CC=C1)C(CNC1=C2N=CNC2=NC(=N1)CNS(=O)(=O)CC(C)C)C1=CC=CC=C1
reactant | β-D-ribofuranose-1,2,3,5-tetraacetate | 0.50 mmol, 0.16 g | C(C)(=O)O[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C13H18O9
reactant | trimethylsilyltriflate | 0.5 mmol, 0.1 ml | C[Si](C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
solvent | 1,1,1-trichloroethane | 10 ml | ClC(C)(Cl)Cl | C2H3Cl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R,3R,4R,5R)-4-(Acetyloxy)-2-[(acetyloxy)methyl]-5-(6-[(2,2-diphenylethyl)amino]-2-{[(isobutylsulfonyl)amino]methyl}-9H-purin-9-yl)tetrahydro-3-furanyl acetate | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C)=O)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)CNS(=O)(=O)CC(C)C)COC(C)=O | C35H42N6O9S
